US07071182B2
4-(4-chlorophenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]cyclohexanecarboxamide
1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine and 4-(4-chloro-phenyl)-cyclohexanecarboxylic acid were processed as described in Example 17 to provide the title compound. MS (DCI/NH3) MS m/z 451 (M+H)+; 1H NMR (500 MHz, DMSO-d6) δ ppm 1.48 (m, 2 H), 1.64 (m, 2 H), 1.75–2.06 (m, 8 H), 2.42 (m, 1 H), 2.57 (m, 1 H), 3.03 (m, 2 H), 3.52 (m, 2 H), 3.71 (q, J=5.82 Hz, 2 H), 4.74 (t, J=6.24 Hz, 2 H), 7.29 (m, 2 H), 7.35 (m, 2 H), 7.55 (m, 1 H), 7.67 (m, 1 H), 8.13 (s, 1 H), 8.18 (s, 1 H), 9.69 (br s, N H).

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | N1(CCCC1)CCN1N=CC2=CC(=CC=C12)N | C13H18N4
reactant | 4-(4-chloro-phenyl)-cyclohexanecarboxylic acid | ClC1=CC=C(C=C1)C1CCC(CC1)C(=O)O | C13H15ClO2
product | 4-(4-chlorophenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]cyclohexanecarboxamide | ClC1=CC=C(C=C1)C1CCC(CC1)C(=O)NC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C26H31ClN4O
